US07405305B2
b) {4-[2-(Tetrahydropyran-2-yloxy)ethoxy]benzofur-7-yl}acetic acid ethyl ester
Combine 7-Bromo-4-[2-(tetrahydropyran-2-yloxy)ethoxy]benzofuran (2.598 g, 7.61 mmol), bis(dibenzylideneacetone) palladium (0.461 g, 0.802 mmol), and 2-dicyclohexylphosphino-2-(N,N-dimethylamino)biphenyl (0.308 g, 0.783 mmol) in tetrahydrofuran (15 ml) under nitrogen. Add bromo(2-ethoxy-2-oxoethyl)zinc (2 equiv.), and heat the mixture at 80° C. for 16 hours. (Knochel, P.; Honed, P.; Eds. Organozinc Reagents: A Practical Approach; Oxford University Press, Inc: London, 1999). Cool the mixture to room temperature, filter through a silica plug eluting with ethyl ether, and concentrate. Purify by flash chromatography and elute with hexane:ethyl acetate to give 1.422 g (54%) of the title compound as an oil. Mass spectrum: electrospray (m/z) 265 (M++1-85).

reactant | 7-Bromo-4-[2-(tetrahydropyran-2-yloxy)ethoxy]benzofuran | 7.61 mmol, 2.598 g | BrC1=CC=C(C=2C=COC21)OCCOC2OCCCC2 | C15H17BrO4
reactant | 2-dicyclohexylphosphino-2-(N,N-dimethylamino)biphenyl | 0.783 mmol, 0.308 g | C1(CCCCC1)P(C1(C(=CC=CC1)C1=CC=CC=C1)N(C)C)C1CCCCC1 | C26H38NP
reactant | bromo(2-ethoxy-2-oxoethyl)zinc | 2 equiv. | Br[Zn]CC(=O)OCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | bis(dibenzylideneacetone) palladium | 0.802 mmol, 0.461 g | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | {4-[2-(Tetrahydropyran-2-yloxy)ethoxy]benzofur-7-yl}acetic acid ethyl ester | 1.422 g, 54% | C(C)OC(CC1=CC=C(C=2C=COC21)OCCOC2OCCCC2)=O | C19H24O6
